US05792764
3-Benzylamino-2-methyl-2H-pyrido[4,3-e]-1,2,4-thiadiazine 1.1-dioxide
A solution of 2-methyl-3-methylsulfanyl-2H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide (0.5 g) and benzylamine (0.5 mL) in dioxane (2.5 mL) was refluxed until completion of the reaction (t.l.c.). After cooling, the addition of ether gave rise to the precipitation of the title compound. The precipitate was collected by filtration, washed with ether and recrystallized from methanol-ether (yield: 0.4 g); m.p. 142°-146° C. (Compound 20).

reactant | 2-methyl-3-methylsulfanyl-2H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide | 0.5 g | CN1S(C2=C(N=C1SC)C=CN=C2)(=O)=O | C8H9N3O2S2
reactant | benzylamine | 0.5 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | ether | CCOCC | C4H10O
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | 3-Benzylamino-2-methyl-2H-pyrido[4,3-e]-1,2,4-thiadiazine 1.1-dioxide | C(C1=CC=CC=C1)NC=1N(S(C2=C(N1)C=CN=C2)(=O)=O)C | C14H14N4O2S
